US07425634B2
(10a) 1,5,9-trioxaspiro[5.5]undec-3-ylmethanol
A mixture of 2-(hydroxymethyl)-1,3-propanediol (3.3 g, 31.1 mmol), tetrahydro-4H-pyran-4-one (3.12 g, 31.2 mmol), p-toluenesulfonic acid monohydrate (268 mg, 1.41 mmol) and benzene (68.3 ml) was refluxed in a round bottom flask equipped with a cooling tube and Dean-Stark for 6 hours. After cooled to room temperature, triethylamine (1 ml) was added to the reaction mixture and the mixture was concentrated. The residue was purified by silica gel column chromatography (silica gel: 200 g, elution solvent: heptane, heptane/ethyl acetate=1/1, 1/3) to obtain the title compound (3.80 g, yield: 64.9%) as a colorless oil.

reactant | 2-(hydroxymethyl)-1,3-propanediol | 31.1 mmol, 3.3 g | OCC(CO)CO | C4H10O3
reactant | tetrahydro-4H-pyran-4-one | 31.2 mmol, 3.12 g | O1CCC(CC1)=O | C5H8O2
reactant | benzene | 68.3 ml | C1=CC=CC=C1 | C6H6
catalyst | p-toluenesulfonic acid monohydrate | 1.41 mmol, 268 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
product | 1,5,9-trioxaspiro[5.5]undec-3-ylmethanol | 3.80 g, yield: 64.9% | O1CC(COC12CCOCC2)CO | C9H16O4
